US04087490
Into a reaction flask was placed 150 ml methanol, 21 g (0.15 moles) potassium carbonate, and 22 g (0.1 moles) of 2-chloro-4H-1,3,2-benzodioxaphosphorin-2-sulfide. The reaction mixture was stirred at room temperature for 2 hours, filtered, and the axcess methanol recovered via reduced pressure. The residue was dissolved in 50 ml chloroform, washed with two portions of water (total of 100 ml), dried over sodium sulfate, filtered, and the solvent removed under reduced pressure. The residue crystallized to yield 19.2 g (92%) of 2-methoxy-4H-1,3,2-benzodioxaphosphorin-2-sulfide having a melting point 50°-53° C. The melting point, IR and NMR spectra of this product were identical to the known insecticide, Salithion. By using corresponding alkanols instead of methanol, the corresponding 2-alkoxy derivatives are obtained.

reactant | potassium carbonate | 0.15 moles, 21 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4H-1,3,2-benzodioxaphosphorin-2-sulfide | 0.1 moles, 22 g | ClP1(OC2=C(CO1)C=CC=C2)=S | C7H6ClO2PS
solvent | methanol | 150 ml | CO | CH4O
product | 2-methoxy-4H-1,3,2-benzodioxaphosphorin-2-sulfide | 19.2 g, 92% | COP1(OC2=C(CO1)C=CC=C2)=S | C8H9O3PS
